US08198269B2
(2) Synthesis of (±)-[(3S*,4R*)-3-amino-3-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-tetrahydropyran-4-yl]methanol
Zinc powder (2.01 g) was added to a solution of (±)-(3aR*,7aS*)-7a-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-hexahydropyrano[3,4-c]isoxazole (875 mg) in acetic acid (30 ml), and the mixture was stirred at room temperature overnight. The insoluble matter was removed by filtration through celite, and the solvent was evaporated under reduced pressure. Ice was added to the residue, followed by neutralization with a 5 N sodium hydroxide solution. The aqueous layer was extracted with dichloromethane, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (661 mg).

reactant | (±)-(3aR*,7aS*)-7a-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-hexahydropyrano[3,4-c]isoxazole | 875 mg | FC1(OC2=C(O1)C=CC=C2[C@@]21NOC[C@@H]2CCOC1)F | C13H13F2NO4
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 2.01 g | [Zn] | Zn
product | (±)-[(3S*,4R*)-3-amino-3-(2,2-difluoro-benzo[1,3]dioxol-4-yl)-tetrahydropyran-4-yl]methanol | 661 mg | N[C@]1(COCC[C@H]1CO)C1=CC=CC=2OC(OC21)(F)F | C13H15F2NO4
